US07816401B2
(2) Synthesis of (3R)-3-{[tert-butyl(dimethyl)silyl]oxy}-5-[(2S,4R,5S)-4-methyl-2-phenyl-5-vinyl-1,3-dioxolan-4-yl]pentanoic acid (P9)
Methyl (3R)-3-{[tert-butyl(dimethyl)silyl]oxy}-5-[(2S,4R,5S)-4-methyl-2-phenyl-5-vinyl-1,3-dioxolan-4-yl]pentanoate (14.6 g, 33.6 mmol) was dissolved in a mixed solution of THF (140 ml)-methanol (140 ml)-water (70.0 ml) and anhydrous lithium hydroxide (4.02 g, 168 mmol) was added. The reaction solution was stirred at room temperature for four and a half hours. The reaction solution was poured into 0.5N hydrochloric acid, which was then extracted with ethyl acetate. After the organic layer was washed with water and brine sequentially, it was dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Kanto Chemical, commercial name Silica gel 60N, granular, neutral, 0.040 mm-0.100 mm; n-heptane:ethyl acetate=4:1→2:1) to obtain the title compound (14.1 g) as a colorless oil.

reactant | Methyl (3R)-3-{[tert-butyl(dimethyl)silyl]oxy}-5-[(2S,4R,5S)-4-methyl-2-phenyl-5-vinyl-1,3-dioxolan-4-yl]pentanoate | 33.6 mmol, 14.6 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC)CC[C@]1(O[C@H](O[C@H]1C=C)C1=CC=CC=C1)C | C24H38O5Si
reactant | lithium hydroxide | 168 mmol, 4.02 g | [OH-].[Li+]
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | methanol | 140 ml | CO | CH4O
solvent | water | 70.0 ml | O | H2O
product | (3R)-3-{[tert-butyl(dimethyl)silyl]oxy}-5-[(2S,4R,5S)-4-methyl-2-phenyl-5-vinyl-1,3-dioxolan-4-yl]pentanoic acid | 14.1 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)O)CC[C@]1(O[C@H](O[C@H]1C=C)C1=CC=CC=C1)C | C23H36O5Si
